US09061013B2
3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid (2,2,2-trifluoro-ethyl)-amide
To a stirred solution of 3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid (Preparation 4, 0.050 g, 0.098 mmol) in DMF (0.5 mL) was added HOBt (0.013 g, 0.096 mmol), DIPEA (0.025 g, 0.193 mmol) EDCl.HCl (0.019 g, 0.099 mmol) and 2,2,2-Trifluoro-ethylamine hydrochloride (0.013 g, 0.096 mmol) at 0° C. Resulting reaction mixture was stirred at room temperature for 18 h under nitrogen atmosphere. After complete consumption of starting material, reaction mixture was quenched with water (5 mL) and extracted with EtOAc (2×5 mL). Combined organic layer was washed with brine (5 mL), dried over sodium sulphate and evaporated in vacuo to get thick oil, 0.093 mg crude. Crude was purified by column chromatography on silica gel (100-200 mesh size). Compound was eluted using 2% methanol in DCM to afford thick yellow oil, which was re-purified by DCM in pentane (1:9) to afford white solid (0.020 g, 37.5%). 1H-NMR (400 MHz, CDCl3) δ: 2.55-2.57 (m, 2H), 2.87-2.91 (m, 3H), 3.67 (d, 1H, J=17.24), 3.96-4.01 (m, 2H), 4.08 (d, 1H, J=17.2 Hz), 4.71 (s, 1H), 5.97 (t, 1H, J=6.32 Hz), 7.55 (d, 2H, J=8.44 Hz), 7.64-7.6 (m, 4H). LC-MS (m/z): [M−H] 586.90.

reactant | 3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid | 0.098 mmol, 0.050 g | OC1(CC(C1)C(=O)O)C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H15Cl3F3NO4
reactant | HOBt | 0.096 mmol, 0.013 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.193 mmol, 0.025 g | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 0.099 mmol, 0.019 g | Cl | ClH
reactant | 2,2,2-Trifluoro-ethylamine hydrochloride | 0.096 mmol, 0.013 g | Cl.FC(CN)(F)F
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid (2,2,2-trifluoro-ethyl)-amide | 0.020 g, 37.5% | FC(CNC(=O)C1CC(C1)(C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)O)(F)F | C23H17Cl3F6N2O3
